Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with hx COPD on home O2, atrial 
fibrillation on apixaban, hypertension, CAD, and hyperlipidemia, 
with recurrent hospitalizations for COPD exacerbations, who 
presented with dyspnea.
  
She has had multiple prior admissions for dyspnea. She was 
recently discharged on ___ after 3 day inpatient admission for 
COPD exacerbation. She was discharged on extended prednisone 
taper with plan for 5d 40mg Prednisone (to finish ___ followed 
by 10mg taper every 5 days (35mg from ___, 30mg ___, 
etc...). 

On the evening prior to presentation, patient experienced 
worsening shortness of breath, nonproductive cough and wheezing 
c/w prior COPD exacerbations. She reported taking inhalers as 
directed, without relief. The patient reported that this is 
almost identical to her last presentation. She also felt that 
she was taking too many medications and does not wish to 
continue to take prednisone. The patient was also noted to have 
increased O2 requirement and she was referred to the ___ ED 
for further management. Of note, please see prior admission note 
for details regarding prior admission.  
 
In the ED, initial vital signs were: 88 143/105 26 94% RA. Labs 
were notable for normal BNP and a creatinine of 1.2. Patient was 
given azithromycin and duoneb. Patient was scheduled to have 
methylpred but did not have it administered until arrival to the 
floor.  
 Upon arrival to the floor, she complained of wheezing and SOB. 
She otherwise felt well. She agreed to take the methyprednisone 
but does not wish to take prednisone any more.  
 
REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, fevers, chills, sweats, weight loss, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
hematochezia, dysuria, rash, paresthesias, and weakness.
 
Past Medical History:
- COPD/Asthma on home 2L O2
- Atypical Chest Pain
- Hypertension
- Hyperlipidemia
- Osteroarthritis
- Atrial Fibrillation on Apixaban
- Anxiety
- Cervical Radiculitis
- Cervical Spondylosis
- Coronary Artery Disease
- Headache
- Herpes Zoster
- GI Bleeding
- Peripheral Vascular Disease s/p bilateral iliac stents
- s/p hip replacement
 
Social History:
___
Family History:
Mother with asthma and hypertension. Father with colon cancer. 
Brother with leukemia.

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
==================================
 VITALS: 97.3 159/91 75  16  94% on 2L  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT: Normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: Normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Mild expiratory wheezes in all lung fields  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.   

PHYSICAL EXAMINATION ON DISCHARGE:
==================================
 VITALS: 98.6 127-150/50-60  70-90'S 16  98% on 3L  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT: Normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: Normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Minimally decreased bilateral air entry, no wheezes 
in all lung fields  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 06:15PM BLOOD WBC-7.7 RBC-4.92 Hgb-13.5 Hct-42.4 MCV-86 
MCH-27.4 MCHC-31.8* RDW-19.6* RDWSD-61.2* Plt ___
___ 06:15PM BLOOD Neuts-87.4* Lymphs-5.7* Monos-6.1 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-6.72* AbsLymp-0.44* 
AbsMono-0.47 AbsEos-0.00* AbsBaso-0.01
___ 06:15PM BLOOD ___ PTT-29.6 ___
___ 06:15PM BLOOD Plt ___
___ 06:15PM BLOOD Glucose-122* UreaN-21* Creat-1.2* Na-136 
K-3.4 Cl-92* HCO3-31 AnGap-16
___ 06:15PM BLOOD ALT-52* AST-34 AlkPhos-69 TotBili-0.3
___ 06:15PM BLOOD Lipase-28
___ 06:15PM BLOOD cTropnT-<0.01 proBNP-325
___ 06:15PM BLOOD Albumin-4.2

LABS ON DISHCHARGE:
===================
___ 06:40AM BLOOD WBC-10.3* RBC-4.20 Hgb-11.8 Hct-37.0 
MCV-88 MCH-28.1 MCHC-31.9* RDW-19.9* RDWSD-65.1* Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-112* UreaN-18 Creat-0.9 Na-137 
K-3.6 Cl-96 HCO3-28 AnGap-17
___ 06:40AM BLOOD Calcium-9.5 Phos-2.6* Mg-2.1

IMAGING:
========
___ CXR:
No acute cardiopulmonary process.

 
Brief Hospital Course:
___ yo F with history of COPD on home O2, atrial fibrillation on 
apixaban, hypertension, CAD, hyperlipidemia, and recurrent 
hospitalization for COPD exacerbation over the last 4 months, 
who presented with dyspnea and increased wheezing secondary to 
severe COPD.
 
#Recurrent COPD exacerbation: Patient presented with increased 
dyspnea and diffuse wheezing, likely secondary to COPD 
exacerbation. She has a history of multiple recurrent COPD 
hospitalizations. According to Pulmonary, patient has severe 
COPD based on her obstructive deficits on PFTs as well as her 
severe symptoms even at rest, as well as her more frequent 
exacerbations and is likely approaching end-stage disease. We 
continued Advair 500/50 BID, Spiriva, standing nebulizers, and 
theophylline. Pulmonary recommended additional budesonide 
inhalers to allow reduction of PO prednisone dose. Prednisone 
dose was increased back to 40mg (where patient was better) with 
a plan for slow wean by 5mg every 2 weeks. Also, patient was 
started on chronic azithromycin for chronic anti-inflammation; 
after discussion with Dr. ___ was agreed to stop 
azithromycin on discharge due to inability to monitor QT the 
week after discharge, with plan to restart azithromycin once Dr. 
___ is able to see the patient. Patient did not want to go to 
pulmonary rehab. She was seen by Palliative Care who recommended 
initiation of morphine liquid suspension as needed for shortness 
of breath.

# Acute kidney injury: Creatinine was slightly elevated to 1.2 
from a baseline of 1.0. She likely had poor PO intake. 
Creatinine on discharge was 0.9.
 
CHRONIC ISSUES:  
==================  
# Anxiety/Insomnia: We continued home lorazepam.
 
# Atrial fibrillation: We continued diltiazem for rate control 
and apixaban for anticoagulation.  
 
# Hypertension: We continued home imdur, hydrochlorothiazide, 
and diltiazem.  
 
# CAD: Cardiac catheterization in ___ showed no evidence of 
significant stenosis of coronaries. ECHO on ___ showed EF > 
55% and no regional or global wall motion abnormalities. We 
continued home aspirin and atorvastatin.
 
# Anemia: We continued home iron supplements. 

***TRANSITIONAL ISSUES:*** 
- Continue Advair 500/50 BID, Spiriva, and theophylline 
- Make sure patient receives standing nebulizers 
- Added additional budesonide inhalers to allow reduction of PO 
prednisone dose 
- Start chronic azithromycin for chronic anti-inflammation. 
(Patient was started on azithromycin in the hospital and QTc on 
___ was 472 ms. ___ discussion with Dr. ___ was agreed 
to stop azithromycin on discharge due to inability to monitor QT 
the week after discharge, with the plan to restart azithromycin 
once Dr. ___ is able to see the patient.)
- Would recommend audiology testing at some point while patient 
is on chronic azithromycin
- Continue supplemental oxygen for comfort
- Follow up with Dr. ___ discharge 
- Continue Bactrim PPX (1 tab SS daily) given extended courses 
of steroids 
- Patient was discharged on prednisone 40 mg with plan for taper 
by 5mg every 2 weeks:
 Prednisone 40 mg for two weeks (Day 1= ___ end 
___
 Prednisone 35 mg for two weeks (Day 1= ___ end 
___
 Prednisone 30 mg for two weeks (Day 1= ___ end 
___
 etc...
# CONTACT: ___ (husband/HCP) ___ 
# CODE STATUS: Full confirmed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. albuterol sulfate 90 mcg/actuation inhalation Q4H 
3. Apixaban 5 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Diltiazem Extended-Release 240 mg PO BID 
7. Docusate Sodium 100 mg PO BID 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
11. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
12. Guaifenesin ___ mL PO Q4H:PRN cough 
13. Hydrochlorothiazide 50 mg PO DAILY 
14. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
16. Lorazepam 0.5 mg PO Q8H:PRN Insomnia, anxiety, vertigo 
17. Multivitamins 1 TAB PO DAILY 
18. PredniSONE 30 mg PO DAILY 
Tapered dose - DOWN 
19. Ranitidine 300 mg PO DAILY 
20. Theophylline SR 300 mg PO BID 
21. Tiotropium Bromide 1 CAP IH DAILY 
22. Levofloxacin 750 mg PO DAILY 
23. Sulfameth/Trimethoprim SS 1 TAB PO DAILY prophylaxis for 
long term steroid use 
24. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
25. cod liver oil 1 capsule  oral BID 
26. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Theophylline SR 300 mg PO BID 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY prophylaxis for long 
term steroid use 
6. Ranitidine 300 mg PO DAILY 
7. PredniSONE 40 mg PO DAILY 
8. Lorazepam 0.5 mg PO Q8H:PRN Insomnia, anxiety, vertigo 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
11. Ipratropium Bromide Neb 1 NEB IH Q6H Wheezing 
12. Hydrochlorothiazide 50 mg PO DAILY 
13. Guaifenesin ___ mL PO Q4H:PRN cough 
14. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
15. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
16. Ferrous Sulfate 325 mg PO DAILY 
17. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
18. albuterol sulfate 90 mcg/actuation inhalation Q4H 
19. Apixaban 5 mg PO BID 
20. Aspirin 81 mg PO DAILY 
21. Atorvastatin 10 mg PO QPM 
22. Diltiazem Extended-Release 240 mg PO BID 
23. Docusate Sodium 100 mg PO BID 
24. Sodium Chloride Nasal ___ SPRY NU QID:PRN nasal discomfort 
RX *sodium chloride 0.65 % ___ spray QID nasal congestion Disp 
#*1 Spray Refills:*0
25. Morphine Sulfate (Oral Solution) 2 mg/mL 5 mg PO Q4H:PRN 
shortness of breath 
RX *morphine 10 mg/5 mL 2.5 mL by mouth every four (4) hours 
Disp ___ Milliliter Milliliter Refills:*0
26. Budesonide Nasal Inhaler 180 mcg Other DAILY 
RX *budesonide [Pulmicort Flexhaler] 180 mcg/actuation (160 mcg 
delivered) 1 puff INH DAILY Disp #*1 Inhaler Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Severe COPD

SECONDARY DIAGNOSES:
CAD
Hypertension
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a great pleasure taking care of you at ___ 
___. You came to the hospital because you 
were experiencing worsening shortness of breath. Pulmonary team 
saw you and reviewed your condition, and your symptoms are 
thought to be related to severe COPD. We did some changes in 
your medications and increased the dose of prednisone. The 
Palliative Care team was consulted and started you on morphine 
liquid suspension to help with your breathing symptoms.

Please take all your medications on time and follow up with your 
doctors as ___.

Best regards,
Your ___ team
 
Followup Instructions:
___